US07521476B2
5 g of 2-benzyl-4-chlorophenol, 2.6 ml of chloroacetone, 1.38 g of potassium carbonate and 0.34 g of potassium iodide are dissolved in 50 ml of acetone and boiled under reflux for 20 h. After cooling, the precipitate is filtered, concentrated by evaporation, the residue dissolved in ethyl acetate, the solution washed three times with a 1 n sodium hydroxide solution, then with saturated sodium chloride solution, dried with magnesium sulphate and concentrated by evaporation under vacuum. After recrystallisation from diethylether, 1-(2-benzyl-4-chlorophenoxy)-propan-2-one is obtained as a white powder with a melting point of 65-6° C.

reactant | 2-benzyl-4-chlorophenol | 5 g | C(C1=CC=CC=C1)C1=C(C=CC(=C1)Cl)O | C13H11ClO
reactant | chloroacetone | 2.6 ml | ClCC(C)=O | C3H5ClO
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.34 g | [I-].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 1-(2-benzyl-4-chlorophenoxy)-propan-2-one | C(C1=CC=CC=C1)C1=C(OCC(C)=O)C=CC(=C1)Cl | C16H15ClO2
